US06534524B1
A solution of [1-(2,4,6-Trimethyl-benzenesulfonyl)-1H-pyrrol-2-yl]-methanol (1.4 g, 5.0 mmol) in CHCl3 (25 ml) was cooled with an ice bath. SOCl2 (1.1 ml, 15 mmol) was added slowly. The solution was allowed to warm to rt, and held an additional 45 min. The solution was then concentrated under reduced pressure. 2-Chloromethyl-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-pyrrole was obtained as a brown solid (1.5 g, 100%). 1H NMR (CDCl3) δ 7.28 (dd, 1H, J=3.3, 1.7 Hz), 6.98 (s, 2H), 6.38-6.34 (m, 1H), 6.19 (t, 1H, J=3.4 Hz), 4.58 (s, 2H), 2.50 (s, 6H), 2.30 (s, 3H).

reactant | [1-(2,4,6-Trimethyl-benzenesulfonyl)-1H-pyrrol-2-yl]-methanol | 5.0 mmol, 1.4 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N1C(=CC=C1)CO | C14H17NO3S
reactant | SOCl2 | 15 mmol, 1.1 ml | O=S(Cl)Cl | Cl2OS
solvent | CHCl3 | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloromethyl-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-pyrrole | ClCC=1N(C=CC1)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C14H16ClNO2S
